US08067584B2
1,1-Dioxo-3-butyl-3-ethyl-4-hydroxy-5-phenyl-7-(carboxymethylthio)-2,3,4,5-tetrahydrobenzothiepine
1,1-Dioxo-3-butyl-3-ethyl-4-hydroxy-5-phenyl-7-fluoro-2,3,4,5-tetrahydrobenzothiepine (prepared according to WO 98/40375; 300 mg, 0.77 mmol) was dissolved in DMF (3 ml) and caesium carbonate (540 mg, 1.66 mmol) was added followed by ethyl thioglycolate (0.17 ml, 1.54 mmol) and the reaction mixture was subjected to microwave irradiation in a Smith Synthesiser at 100° C. for 5 min. The reaction mixture was added to water (25 ml), extracted with DCM (5×5 ml) and concentrated. The crude ethyl ester was dissolved in THF (4 ml) and water (2 ml) and NaOH (1 M, 4 ml) was added. The reaction mixture was stirred at ambient temperature for 6 hours, quenched with HCl (1 M), diluted with water (25 ml) and extracted with DCM (4×5 ml). The combined organic layers were purified with preparative HPLC using MeCN/ammonium acetate buffer as the eluent (50:50) to give the title compound (172 mg, 48%). NMR (400 MHz, DMSO-d6): 0.74 (t, 3H), 0.84 (t, 3H), 1.01 (m, 1), 1.18-1.46 (m, 5H), 1.60 (m, 1H), 2.02 (m, 1H), 3.07/3.12 (ABq, 2H), 3.33/3.39 (ABq, 2H), 3.95 (s, 1H), 5.23 (s, 1H), 6.38 (d, 1H), 7.19 (dd, 1H), 7.34 (m, 1H), 7.42 (m, 4H), 7.73 (d, 1H).

reactant | 1,1-Dioxo-3-butyl-3-ethyl-4-hydroxy-5-phenyl-7-fluoro-2,3,4,5-tetrahydrobenzothiepine | 0.77 mmol, 300 mg | O=S1(CC(C(C(C2=C1C=CC(=C2)F)C2=CC=CC=C2)O)(CC)CCCC)=O | C22H27FO3S
reactant | caesium carbonate | 1.66 mmol, 540 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl thioglycolate | 1.54 mmol, 0.17 ml | C(CS)(=O)OCC | C4H8O2S
reactant | water | 25 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1,1-Dioxo-3-butyl-3-ethyl-4-hydroxy-5-phenyl-7-(carboxymethylthio)-2,3,4,5-tetrahydrobenzothiepine | 172 mg, 48% | O=S1(CC(C(C(C2=C1C=CC(=C2)SCC(=O)O)C2=CC=CC=C2)O)(CC)CCCC)=O | C24H30O5S2
